US06599917B1
(3-Pyrmidyl)tri-n-butyltin
11.2 ml of a hexane solution containing 2.52 mol of n-butyllithium was slowly added to a solution of 30 ml of tetrahydrofuran containing 4.8 ml of 2,2,6,6-tetramethylpiperidine at −30° C., followed by stirring at 0° C. for 30 minutes. Thereafter, 7.3 ml of N,N,N′,N′-tetramethylethylenediamine was added and then a mixture of 1.74 ml of pyridazine, 10.3 ml of tri-n-butyltin chloride and 10 ml of tetrahydrofuran was slowly added to the mixture at −78° C., followed by stirring at −78° C. for 3 hours, Then, water was added to the reaction solution, and then extracted with ethyl acetate. The organic phase was washed with brine and the solvent was removed. Then, the residue was subjected to NH-silica gel (Fuji Silicia) column chromatography and eluted with hexane/ethyl acetate (10:1), and then subjected to silica gel chromatography and eluted with hexane/ethyl acetate (10:1) and then with hexane/ethyl acetate (1:1), to give 660 mg of the target compound.

reactant | n-butyllithium | 2.52 mol | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | N,N,N′,N′-tetramethylethylenediamine | 7.3 ml | CN(CCN(C)C)C | C6H16N2
reactant | pyridazine | 1.74 ml | N1=NC=CC=C1 | C4H4N2
reactant | tri-n-butyltin chloride | 10.3 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | hexane | 11.2 ml | CCCCCC | C6H14
product | (3-Pyrmidyl)tri-n-butyltin | 660 mg | N=1CN(C=CC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H5N2.3C4H9.Sn/c1-2-5-4-6-3-1;3*1-3-4-2;/h1-3H,4H2;3*1,3-4H2,2H3;/q-1;;;;+1
